US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(4-bromo-furan-2-yl)-(E)-allyl]-piperazin-2-one
To a solution of 1-(4-amino-quinazolin-7-ylmethyl)-piperazin-2-one (50 mg, 0.20 mmol), EXAMPLE 72.in 3 mL of acetonitrile is added 3-(4-bromo-furan-2-yl)-(E)-propenal (43 mg, 0.22 mmol), prepared as described in EXAMPLE 18, 2 drops of HOAc and sodium triacetoxyborohydride (62 mg, 0.29 mmol). The solution is stirred at room temperature for 16 hours. After this time, the solution is diluted with water/acetonitrile. The crude material is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1% TFA) to 80% CH3CN/H2O (0.1% TFA) and the appropriate product fractions are combined and lyopholized to give the title compound (48 mg, 0.07 mmol) as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ9.75 (bs, 2H), 8.85 (s, 1H), 8.60 (d, 1H), 7.95 (s, 1H), 7.69 (s, 1H), 7.62 (d, 1H), 6.80 (s, 1H), 6.65 (d, 1H), 6.19 (dt, 1H), 4.80 (s, 2H), 3.70 (m, 4H), 3.50 (m, 2H), 3.28 (m, 2H), ESI MS [M+H]+=441,443 (Br pattern).

reactant | 1-(4-amino-quinazolin-7-ylmethyl)-piperazin-2-one | 0.20 mmol, 50 mg | NC1=NC=NC2=CC(=CC=C12)CN1C(CNCC1)=O | C13H15N5O
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 3-(4-bromo-furan-2-yl)-(E)-propenal | 0.22 mmol, 43 mg | BrC=1C=C(OC1)/C=C/C=O | C7H5BrO2
reactant | sodium triacetoxyborohydride | 0.29 mmol, 62 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | HOAc | 2 drops | CC(=O)O | C2H4O2
solvent | water acetonitrile | O.C(C)#N
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(4-bromo-furan-2-yl)-(E)-allyl]-piperazin-2-one | 0.07 mmol, 48 mg | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1)C\C=C\C=1OC=C(C1)Br)=O | C20H20BrN5O2
